US05874427
3-(1,2,3,4,5,8-Hexahydroindolizin-7-yl)-5-nitro-1H-indole
The 5-nitro-1H-indole (4.48 g, 27.6 mmol) and 7-octahydroindolizinone (5.0 g, 35.9 mmol) were converted to product by the procedure of Preparation IV to yield 2.99 g. (38.5%).

reactant | 5-nitro-1H-indole | 27.6 mmol, 4.48 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | 7-octahydroindolizinone | 35.9 mmol, 5.0 g | C1CCN2CCC(CC12)=O | C8H13NO
product | 3-(1,2,3,4,5,8-Hexahydroindolizin-7-yl)-5-nitro-1H-indole | C1CCN2CC=C(CC12)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C16H17N3O2
